US04420481
In 50 ml of toluene was dissolved 8.1 g (0.05 mole) of 1-methyl-4-chlorocarbonylpiperazine at room temperature and a solution of 10.7 g (0.15 mole) of pyrrolidine in 50 ml of toluene was dropped to the above solution at 0° C. over a period of 30 minutes. The mixture was refluxed for 1 hour to complete the reaction. The reaction mixture was cooled, and the precipitated yellow crystal (pyrrolidine hydrochloride) was removed by filtration. The filtrate was dried with anhydrous sodium sulfate and toluene as the solvent was removed by distillation under reduced pressure to obtain crude 1-methyl-4-(pyrrolidinocarbonyl)piperazine as the distillation residue. The crude product was purified by distillation under reduced pressure to obtain 6.6 g of a pure product having a boiling point of 109.5 to 110.0° C. at 0.5-0.6 mm Hg obs. The yield was 66.9%. The elementary analysis values are as follows:

reactant | 1-methyl-4-chlorocarbonylpiperazine | 0.05 mole, 8.1 g | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
reactant | pyrrolidine | 0.15 mole, 10.7 g | N1CCCC1 | C4H9N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-(pyrrolidinocarbonyl)piperazine | CN1CCN(CC1)C(=O)N1CCCC1 | C10H19N3O
